US04337354
Step D. Ethyl [(5,6-Dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate
A mixture of 5,6-dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (6.0 gm., 0.02 mole), ethyl bromoacetate (4.0 gm., 0.025 mole) and potassium carbonate (8.3 gm., 0.06 mole) in dimethylformamide (35 ml.) is heated at 50° C. and stirred for one hour. The mixture is cooled and poured into water (300 ml.). The solid product that separates is removed by filtration, then washed with water followed by benzene (10 ml.).

reactant | 5,6-dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.02 mole, 6.0 gm | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)O)CC)=O | C15H14Cl2O2
reactant | ethyl bromoacetate | 0.025 mole, 4.0 gm | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.06 mole, 8.3 gm | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | Ethyl [(5,6-Dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)OCC)CC)=O | C19H20Cl2O4
